US09315462B2
Step 6: Synthesis of 3,3,3-trifluoro-N-(2-formyl-4-methoxyphenyl)propanamide
To a solution of 3,3,3-trifluoro-N-(2-(hydroxymethyl)-4-methoxyphenyl)propanamide (6.30 g, 23.9 mmol) in anhydrous CH2Cl2 (200 mL) was added MnO2 (20.0 g, 229 mmol). The mixture was refluxed for 16 hours. The mixture was filtered off and the filtrate was concentrated to give the desired product (5.30 g, yield 84%).

reactant | 3,3,3-trifluoro-N-(2-(hydroxymethyl)-4-methoxyphenyl)propanamide | 23.9 mmol, 6.30 g | FC(CC(=O)NC1=C(C=C(C=C1)OC)CO)(F)F | C11H12F3NO3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 229 mmol, 20.0 g | O=[Mn]=O
product | 3,3,3-trifluoro-N-(2-formyl-4-methoxyphenyl)propanamide | 5.30 g, yield 84% | FC(CC(=O)NC1=C(C=C(C=C1)OC)C=O)(F)F | C11H10F3NO3
